US05397794
9b-(3,5-dimethylphenyl)2,3-dihydrothiazolo[2,3-a]-isoindol-5(9bH)-one
10 mmol 2-(3,5-dimethylbenzoyl)-benzoic acid were dissolved in 100 ml of xylene and, after addition of 20 mmol cysteamine, as well as a catalytic amount of p-toluenesulphonic acid, heated for 2 h under reflux on a water separator. The solvent was then removed in a vacuum and the residue recrystallised from ethanol. Yield 53%, m.p. 163° C.

reactant | 2-(3,5-dimethylbenzoyl)-benzoic acid | 10 mmol | CC=1C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C(C1)C | C16H14O3
reactant | cysteamine | 20 mmol | NCCS | C2H7NS
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 9b-(3,5-dimethylphenyl)2,3-dihydrothiazolo[2,3-a]-isoindol-5(9bH)-one | Yield 53% | CC=1C=C(C=C(C1)C)C12N(C(C3=CC=CC=C13)=O)CCS2 | C18H17NOS
